US09108966B2
NaBH4 (36 g, 1.0 mol) was added in portions to a solution of (S)-1-tert-butyl 2-ethyl 5-oxopiperidine-1,2-dicarboxylate (250 g, 0.92 mol) in EtOH (1500 mL) at −40° C. The reaction mixture was then stirred at −40° C. for 0.5 hr then quenched with 10% HOAc solution. After diluting with water, the mixture was extracted with DCM three times. The combined organic layer was concentrated in vacuum and purified by silica gel column chromatography (1:1 petroleum ether/EtOAc) to afford (2S,5S)-1-tert-butyl 2-ethyl 5-hydroxypiperidine-1,2-dicarboxylate (205 g, 80%) as a yellow oil.

reactant | NaBH4 | 1.0 mol, 36 g | [BH4-].[Na+]
reactant | (S)-1-tert-butyl 2-ethyl 5-oxopiperidine-1,2-dicarboxylate | 0.92 mol, 250 g | O=C1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO5
solvent | EtOH | 1500 mL | CCO | C2H6O
product | (2S,5S)-1-tert-butyl 2-ethyl 5-hydroxypiperidine-1,2-dicarboxylate | 205 g, 80% | O[C@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC | C13H23NO5
